US03975535
2-Thiaisocoumarin-3-carboxylic acid
A mixture of 5-(o-carboxybenzylidene) rhodanine (4.68g.) and sodium hydroxide (5.0g.) in water (40ml.) was heated under reflux for 30 minutes, cooled and poured into 5N hydrochloric acid (250ml.). Filtration and recrystallization from ethanol-water gave the product as a white solid, mp. 260.5°-261° (lit mp. 261°-3°), (Found: C, 58.10; H, 2.92; S, 15.41. C10H6SO3 requires C, 58.24; H, 2.93; S, 15.55).

reactant | 5-(o-carboxybenzylidene) rhodanine | 4.68g | C(=O)(O)C1=C(C=C2C(NC(S2)=S)=O)C=CC=C1 | C11H7NO3S2
reactant | sodium hydroxide | 5.0g | [OH-].[Na+]
reactant | hydrochloric acid | 5N, 250ml | Cl | ClH
solvent | water | 40ml | O | H2O
product | 2-Thiaisocoumarin-3-carboxylic acid | C1(=O)SC(=CC2=CC=CC=C12)C(=O)O | C10H6O3S
